US05830868
Step 1: Cbz-His(1-Me)
Benzyl chloroformate (0.24 mL, 1.7 mmol) was added dropwise to a slurry of 1-methyl-L-histidine (0.25 g, 1.5 mmol) in THF (5 mL) and saturated aqueous NaHCO3, (5 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred overnight. The mixture was concentrated and diluted with H2O, washed with ether, and the pH adjusted to 6-7 with iN HCl. The mixture was concentrated, then diluted with CHCl3 (150 mL) and MeOH (15 mL), and stirred for 1 hour. The mixture was dried (MgSO4) and concentrated to provide 0.48 g of the title compound which was used without further purification.

reactant | Benzyl chloroformate | 1.7 mmol, 0.24 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 1-methyl-L-histidine | 1.5 mmol, 0.25 g | CN1C=C(C[C@H](N)C(=O)O)N=C1 | C7H11N3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
product | Cbz-His(1-Me) | 0.48 g | N([C@@H](CC1=CN(C=N1)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C15H17N3O4
